US20010027196A1
2-Amino-4-(methylthio)-6-m-tolyl-pyrimidine-5-carbonitrile
From 3-methylbenzoylacetonitrile with sodium hydride, carbon disulphide and methyl iodide in DMSO. Then treatment with guanidine nitrate and triethylamine in DMF. EI-MS m/e (%): 256 (M+, 74), 255 ([M—H]+, 100), 241 ([M—CH3]+, 98).

reactant | 3-methylbenzoylacetonitrile | CC=1C=C(C(=O)CC#N)C=CC1 | C10H9NO
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | guanidine nitrate | [N+](=O)(O)[O-].NC(=N)N
reactant | DMSO | CS(=O)C | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | carbon disulphide | C(=S)=S | CS2
product | 2-Amino-4-(methylthio)-6-m-tolyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SC)C#N)C=1C=C(C=CC1)C | C13H12N4S
